US07666879B2
1-(5-tert-Butyl-isoxazol-3-yl)-3-(2-fluoro-4-{7-[4-(4-isopropyl-piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-urea
Dissolve 1-(5-tert-butyl-isoxazol-3-yl)-3-(2-fluoro-4-{7-[4-(piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-urea hydrochloride (0.290 g, 0.469 mmol) in methanol (5 mL) and acetone (0.041 mL, 0.563 mmol). Add acetic acid (0.032 mL, 0.563 mmol); stir the mixture for five minutes. Add sodium cyanoboro-hydride (0.053 g, 0.845 mmol). Stir the mixture at room temperature for 14 hours. Concentrate to dryness and quench with 1 N HCl (5 mL). Partition between ethyl acetate and 1 N NaOH, wash with aqueous saturated sodium chloride, dry the organics over magnesium sulfate, filter, and concentrate. Purify by column chromatography (hexanes→5% methanol in dichloromethane→10% methanol in dichloromethane→10% 2 M NH3 in methanol in dichloromethane) to afford product (0.019 g, 7%). MS(ES), m/z 624 (M+1).

reactant | 1-(5-tert-butyl-isoxazol-3-yl)-3-(2-fluoro-4-{7-[4-(piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-urea hydrochloride | 0.469 mmol, 0.290 g | Cl.C(C)(C)(C)C1=CC(=NO1)NC(=O)NC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCNCC2)F
reactant | acetone | 0.563 mmol, 0.041 mL | CC(=O)C | C3H6O
reactant | acetic acid | 0.563 mmol, 0.032 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoboro-hydride | 0.845 mmol, 0.053 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 1-(5-tert-Butyl-isoxazol-3-yl)-3-(2-fluoro-4-{7-[4-(4-isopropyl-piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-urea | 0.019 g, 7% | C(C)(C)(C)C1=CC(=NO1)NC(=O)NC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C(C)C)F | C35H38FN7O3
